US04352795
A suspension of 3.1 g sodium hydride, 25.9 g of 4-chloro-2-methylmercapto-7H-pyrrolo[2,3-d]pyrimidine, and 250 ml of dry dimethylformamide (DMF) is stirred at 50° C. for 0.5 hour, cooled, and added to 62.8 g of 2,3,5-tri-O-benzyl-α-D-arabinofuranosyl chloride. The solution is stirred at ambient temperature for 15 hours, concentrated in vacuo, and distributed between a mixture of ethyl acetate and water. Chromatrography of the dried (MgSO4) layer over silica gel with 4:1 toluene-ethyl acetate provides 76 g of yellow, syrupy 4-chloro-2-methylmercapto-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine.

reactant | sodium hydride | 3.1 g | [H-].[Na+]
reactant | 4-chloro-2-methylmercapto-7H-pyrrolo[2,3-d]pyrimidine | 25.9 g | ClC=1C2=C(N=C(N1)SC)NC=C2 | C7H6ClN3S
reactant | 2,3,5-tri-O-benzyl-α-D-arabinofuranosyl chloride | 62.8 g | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)Cl | C26H27ClO4
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2-methylmercapto-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)SC)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C33H32ClN3O4S
